.subckt twosource_1 n1

* filesource instance
* A1 %vd([n1 0]) filesrc
* AC voltage source (for AC simulations)
VAC n1 0 AC 1

* filesource non-interpolating model 
.model filesrc filesource (file="normalized_signal.txt"
+ amploffset=[0.0] amplscale=[0.1]
+ timeoffset=0 timescale=1
+ timerelative=false amplstep=false)

.ends


.subckt twosource_2 n1

* filesource instance
* A1 %vd([n1 0]) filesrc
* AC voltage source (for AC simulations)
VAC n1 0 AC 1

* filesource non-interpolating model 
.model filesrc filesource (file="normalized_signal.txt"
+ amploffset=[0.0] amplscale=[0.1]
+ timeoffset=0 timescale=1
+ timerelative=false amplstep=false)

.ends


.subckt twosource_3 n1

* filesource instance
* A1 %vd([n1 0]) filesrc
* AC voltage source (for AC simulations)
VAC n1 0 AC 1

* filesource non-interpolating model 
.model filesrc filesource (file="normalized_signal.txt"
+ amploffset=[0.0] amplscale=[0.1]
+ timeoffset=0 timescale=1
+ timerelative=false amplstep=false)

.ends


.subckt twosource_4 n1

* filesource instance
* A1 %vd([n1 0]) filesrc
* AC voltage source (for AC simulations)
VAC n1 0 AC 1

* filesource non-interpolating model 
.model filesrc filesource (file="normalized_signal.txt"
+ amploffset=[0.0] amplscale=[0.1]
+ timeoffset=0 timescale=1
+ timerelative=false amplstep=false)

.ends