* source THS3491
R_Rload         OUT 0 R_NOISELESS 100
V_V8         NPD 0 15
V_V2         VCC 0 15
V_V10         IN+ 0  AC 1
+SIN 0 1 200e6 0 0 0
V_V5         VEE 0 -15
X_U1         IN+ N1104241 OUT NPD VCC VEE 0 THS3491RGT
R_Rfeedback         N1104241 OUT  576 TC=0,0 
R_Rgain         0 N1104241  143 TC=0,0 
